US04152433
To acetic anhydride (384 ml.) was added dropwise formic acid (169.2 ml.) over 15 to 20 minutes under cooling below 35° C., and the mixture was stirred for 1 hour at 55° to 60° C. To the mixture was added ethyl 2-(2-aminothiazol-4-yl)acetate, which can be represented as ethyl 2-(2-imino-2,3-dihydrothiazol-4yl)acetate, (506 g.) over 15 to 20 minutes under ice-cooling and stirring, and then the mixture was stirred for 1 hour at room temperature. After the reaction, the solvents were distilled off. To the residue was added diisopropyl ether (2500 ml.), and the mixture was stirred for 1 hour at room temperature. The precipitates were collected by filtration, washed with diisopropyl ether and then dried to give ethyl 2-(2-formylaminothiazol-4-yl)acetate, which can be represented as ethyl 2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetate, (451.6 g.), mp 125° to 126° C. The remaining filtrate was concentrated, and the residue was washed with diisopropyl ether (500 ml.) and then dried to give further the same object compound (78.5 g.).

reactant | acetic anhydride | 384 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-(2-aminothiazol-4-yl)acetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | ethyl 2-(2-imino-2,3-dihydrothiazol-4yl)acetate | N=C1SC=C(N1)CC(=O)OCC | C7H10N2O2S
solvent | formic acid | 169.2 ml | C(=O)O | CH2O2
product | ethyl 2-(2-formylaminothiazol-4-yl)acetate | C(=O)NC=1SC=C(N1)CC(=O)OCC | C8H10N2O3S
